Name:  ___.           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hematochezia, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with PMH of HTN, depression/anxiety who 
presents with N/V/D and bloody bowel movements. 

He states he has had a history of bloody diarrhea over the past 
several months and did have a preventative colonoscopy a year 
ago which he was told was normal. He began having an episode of 
diarrhea and frank red bloody bowel movements on ___ and 
because he was leaving for a trip took Imodium which seemed to 
help. He stopped having blood in his stool on ___.  He 
denies any correlation of his GI symptoms with food and denies 
any nocturnal diarrhea.  He flew back from ___ on ___ and then 
this morning of presentation awoke with nausea and vomiting. He 
has not been able to eat or drink all day. He feels anxious and 
achey. He continues to have perfuse watery diarrhea today. No 
fever, no unusual or suspect food ingestions, no known sick 
contacts. No recent antibiotic use or hospitalizations.  He 
denies any weight loss associated with his GI symptoms.

Of note, he reports that while on vacation, he drank 10+ EtOH 
drinks daily, used ___ on ___ and ___.  

In the ED, initial VS 96.9, 117, 154/96, 20, 98% on RA.  
Abdominal exam was benign.  Initial labs showed wnl chemistries, 
ALT 65, AST 64, AP 48, TBili 0.7, lipase wnl.  WBC 11.1 with 
93.5% PMNs.  Initial lactate 2.4 which improved to 1.8 following 
1L NS bolus in the ED.  The patient was given Zofran and Ativan 
1 mg x 1 prior to transfer to the floor.

On the floor, the patient reports feeling overall well although 
with some diffuse abdominal discomfort and mild nausea.  He 
reports feeling very anxious and slightly tremulous as well.  He 
states that he has never had any withdrawal symptoms in the past 
and no DT/seizures.
 
ROS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain.  
Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denies cough, shortness of breath. Denies chest pain or 
tightness, palpitations. No dysuria. Denies arthralgias or 
myalgias.  
 

 
Past Medical History:
HTN
depression
anxiety
 
Social History:
___
Family History:
FAMILY HISTORY:  
Father with colon cancer age ___
 
Physical Exam:
Vital Signs: T  97.9 BP 138 / 86 HR 75 RR 18 O2 sat 95 RA 
General: Alert, oriented, middle-aged male in no acute distress  

HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, obese, non-distended, mild TTP diffusely, bowel 
sounds present, no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: AOx3, grossly nonfocal.  
Access:  PIV
 
Pertinent Results:
___ 06:34AM BLOOD WBC-5.5# RBC-4.24* Hgb-13.1*# Hct-38.1* 
MCV-90 MCH-30.9 MCHC-34.4 RDW-12.5 RDWSD-40.3 Plt ___
___ 06:34AM BLOOD Glucose-98 UreaN-14 Creat-0.8 Na-138 
K-3.5 Cl-101 HCO3-28 AnGap-13
___ 06:34AM BLOOD ALT-43* AST-29 AlkPhos-36* TotBili-0.7
___ 06:34AM BLOOD Calcium-7.7* Phos-2.6* Mg-1.7
___ 05:20PM BLOOD CRP-16.6*
___ 09:09PM BLOOD Lactate-1.8
___ 06:20PM BLOOD Lactate-2.4*
___ 06:34AM BLOOD SED RATE-PND

___ Pending Cdiff, stool cultures

No imaging studies
 
Brief Hospital Course:
Mr. ___ is a ___ with PMH of HTN, depression/anxiety who 
presents with N/V/D and abdominal pain. 

# N/v
# Diarrhea
Patient reports recent history of bloody loose BMs which seems 
c/w possible IBD although prior colonoscopy ___ year ago was wnl. 
He currently has significant profuse watery diarrhea which may 
be infectious; he reports no recent sick contacts.  His diarrhea 
may be related to a viral gastroenteritis; we will send stool 
cultures for further infectious work-up.  During his 
hospitalization he only had 1x stool since admission without e/o 
hematochezia. After further review, the bleed was bright red 
without diarrhea and with wiping with tissue making hemorrhoidal 
bleed highly likely. I called GI and discussed the case and due 
to hemodynamic stability recommended to f/u as outpatient and/or 
CRC evaluation if continued to bleed. 
Pt had no more stools throughout the afternoon. I discussed the 
pending infectious studies and pt was able to tolerate po 
without abd pain. 
--Elected to go home and f/u with concierge PCP. Pending results 
of infectious workup I will call if positive for cdiff and/or 
bacterial
--Counseled on viral gastroenteritis and importance to stay 
hydrated
--cRP elevated 16 but repeat 74 which is unlikely given these 
labs were drawn <12 hours apart. ESR is still pending. could be 
elevated due to acute inflammatory process from viral 
gastroenteritis

# EtOH withdrawal
Sinus tachycardia, had resolved and CIWAs remained completely 
negative overnight and throughout the day. Counseled on alcohol 
withdrawal. 

# Transaminitis.  Unclear etiology.  Not in classic pattern of 
alcoholic hepatitis.  Unlikely to be related to use ___ 
last week, especially as his current presentation does not seem 
to be related to toxicity related to ___ ingestion.
- Continue to trend for now
- resolved on discharge and no abd pain so deferred RUQ u/s

# HTN, benign essential - controlled
- Continue home losartan-HCTZ

# Depression/anxiety. Stable.
- Ativan per CIWA as above

CORE MEASURES:  
=======================  
# FEN: Replete electrolytes, regular diet   
# ACCESS: PIVs  
# CODE: Full code 
# CONTACT: patient, mother ___  ___
# DISPO:  home

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 1 mg PO BID 
2. BuPROPion (Sustained Release) 150 mg PO BID 
3. losartan-hydrochlorothiazide 100-25 mg oral DAILY 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 150 mg PO BID  
2.  ClonazePAM 1 mg PO BID  
3.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
 1. Hematochezia - likely from hemorrhoids
2. Nausea/Vomiting - concern for viral gastroenteritis
3. Alcohol Abuse - no signs of acute withdrawal
4. Elevated Transaminases - likely related to alcohol use

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you in the hospital at ___. 
You presented with diarrhea and blood in your stools. We spoke 
with gastroenterology, but felt due to your story this likely is 
due to your hemorrhoids. It is less likely any other problem 
without abdominal pain symptoms. 

We recommend that you follow-up with your doctor for further 
care. If you do develop constipation, please take stool 
softeners over the counter to make sure you don't disrupt your  
hemorrhoids.

I have prescribed you Zofran to take for any continued nausea. 
 
Followup Instructions:
___